US05077409
N-[4-(2-Methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide monohydrochloride
A solution of 500 mg of N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide in 7 ml of tetrahydrofuran and 70 ml of ether is saturated with hydrogen chloride. The solid is collected by centrifugation, washed three times with ether and vacuum dried to give 0.5 g of the desired product as a white solid, m.p. 207°-211° C.

reactant | N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 500 mg | CC=1N(C=CN1)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C32H45N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | ether | 70 ml | CCOCC | C4H10O
product | N-[4-(2-Methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide monohydrochloride | 0.5 g | Cl.CC=1N(C=CN1)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C32H45N3O2.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-25-37-31-21-15-28(16-22-31)26-32(36)34-29-17-19-30(20-18-29)35-24-23-33-27(35)2;/h15-24H,3-14,25-26H2,1-2H3,(H,34,36);1H
